US05635510
77.3 Synthesis of 4-(4-chloro-phenyl)-piperidine-4-carboxylic acid amide hydrochloride
A mixture of 1/9 by volume of formic acid/methanol (50 mL) was carefully added to platinum black (2.2 g). A solution of 1-benzyl-4-(4-chloro-phenyl)-piperidine-4-carboxylic acid amide N-oxide (2.6 g) in methanol (10 mL) was added. After 18 hours, the reaction mixture was filtered through a bed of celite and the filtrate was evaporated in vacuo to give a residue. The residue was dissolved in ethyl acetate (10 mL) and a 1M solution of hydrochloric acid in methanol (4 mL) added. The reaction mixture was evaporated in vacuo to give a residue which was dissolved in methanol and treated with diethyl ether to give a solid. The solid was collected by filtration and dried to give the title compound.

reactant | formic acid methanol | 50 mL | C(=O)O.CO
reactant | 1-benzyl-4-(4-chloro-phenyl)-piperidine-4-carboxylic acid amide N-oxide | 2.6 g | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)[NH2]=O)C1=CC=C(C=C1)Cl | C19H21ClN2O2
reactant | hydrochloric acid | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | 10 mL | CO | CH4O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 4 mL | CO | CH4O
catalyst | platinum black | 2.2 g | [Pt] | Pt
product | 4-(4-chloro-phenyl)-piperidine-4-carboxylic acid amide hydrochloride | Cl.ClC1=CC=C(C=C1)C1(CCNCC1)C(=O)N | InChI=1S/C12H15ClN2O.ClH/c13-10-3-1-9(2-4-10)12(11(14)16)5-7-15-8-6-12;/h1-4,15H,5-8H2,(H2,14,16);1H
